US08431607B2
(4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-5-((4-(3-methyl-1,2,4-oxadiazol-5-yl)-1H-1,2,3-triazol-1-yl)methyl)oxazolidin-2-one
Reference for 1,2,4-oxadiazole formation: Bioorg. Med. Chem. Lett. 1999, 9, 209. A solution of 1-(((4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-2-oxooxazolidin-5-yl)methyl)-1H-1,2,3-triazole-4-carboxylic acid (32 mg, 0.07 mmol) in dioxane (0.5 mL) is treated with N,N′-carbonyldiimidazole and stirred at room temperature for 30 min. Acetamide oxime (10 mg, 0.13 mmol) is then added and the mixture stirred for 2 h at room temperature then at 100° C. for 18 h. The reaction solution is then diluted with acetonitrile and filtered through a Whatman 0.42 μM and purified by preparative HPLC (C-18, 10-90% ACN/water (0.05% TFA)) HPLC to give the title compound. 1H NMR (acetone-d6, 400 MHz) δ 8.93 (s, 1H), 7.47-7.44 (m, 2H), 7.33-7.28 (m, 3H), 7.05-7.00 (m, 2H), 6.88 (ddd, J=7.9, 2.5, 0.8 Hz, 1H), 5.62 (d, J=5.0 Hz, 1H), 5.25-5.24 (m, 2H), 5.03 (ddd, J=5.7, 5.5, 4.9 Hz, 1H) 3.76 (s, 3H), 2.40 (s, 3H); HPLC-MS calculated C22H19ClN6O4 (M+H+) 467.1, found 467.1.1.

reactant | 1,2,4-oxadiazole | O1N=CN=C1 | C2H2N2O
reactant | 1-(((4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-2-oxooxazolidin-5-yl)methyl)-1H-1,2,3-triazole-4-carboxylic acid | 0.07 mmol, 32 mg | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC=C1)OC)CN1N=NC(=C1)C(=O)O)=O | C20H17ClN4O5
reactant | Acetamide oxime | 0.13 mmol, 10 mg | C(C)(N)=NO | C2H6N2O
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | (4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-5-((4-(3-methyl-1,2,4-oxadiazol-5-yl)-1H-1,2,3-triazol-1-yl)methyl)oxazolidin-2-one | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC=C1)OC)CN1N=NC(=C1)C1=NC(=NO1)C)=O | C22H19ClN6O4
